US08383827B2
Step 1: Synthesis of 2-Chloro-4-(5-formyl-pyridin-3-yl)-benzonitrile
A mixture of 4-bromo-2-chlorobenzonitrile (1.082 g, 5 mmol), 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)nicotinaldehyde (1.165 g, 5.00 mmol), Pd(PPh3)4 (0.144 g, 0.125 mmol), sodium carbonate (2.5 mL, 5.00 mmol) in 1,4-dioxane (20 mL) was heated to reflux for 6 h. After cooling to room temperature, the solid was filtered and washed by ethyl acetate and water. After drying under vacumn, yellow powder was collected (1 g). 1H NMR (400 MHz, CDCl3): δ 7.63 (dd, J=1.68, 8 Hz, 1H), 7.79 (d, J=1.68 Hz, 1H), 7.83 (d, J=8 Hz, 1H), 8.35 (dd, J=2.24 Hz, 2.04 Hz, 1H), 9.07 (d, J=2.36 Hz, 1H), 9.15 (d, J=1.88 Hz, 1H), 10.22 (s, 1H).

reactant | 4-bromo-2-chlorobenzonitrile | 5 mmol, 1.082 g | BrC1=CC(=C(C#N)C=C1)Cl | C7H3BrClN
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)nicotinaldehyde | 5.00 mmol, 1.165 g | CC1(OB(OC1(C)C)C=1C=NC=C(C=O)C1)C | C12H16BNO3
reactant | sodium carbonate | 5.00 mmol, 2.5 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.125 mmol, 0.144 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Chloro-4-(5-formyl-pyridin-3-yl)-benzonitrile | ClC1=C(C#N)C=CC(=C1)C=1C=NC=C(C1)C=O | C13H7ClN2O
